US07351825B2
b) (1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid t-butyl ester (step 1-9)
To the 2-diazomalonic acid t-butyl ester (Z)-3-phenyl-allyl ester (16 g, 54 mmol) above were added triethyl phosphite (0.090 g, 0.54 mmol) and copper (I) iodide (0.10 g, 0.54 mmol) in toluene (490 mL). After heating at 130° C. for 5 hours, the solid was filtered off and the filtrate was concentrated. The reaction mixture was purified by column chromatography using dichloromethane as an eluent. Purification afforded 5.2 g of the desired diastereomer and 2.8 g of the other diastereomer.

reactant | 2-diazomalonic acid t-butyl ester (Z)-3-phenyl-allyl ester | 54 mmol, 16 g | C1(=CC=CC=C1)\C=C/COC(C(C(=O)OC(C)(C)C)=[N+]=[N-])=O | C16H18N2O4
reactant | triethyl phosphite | 0.54 mmol, 0.090 g | P(OCC)(OCC)OCC | C6H15O3P
solvent | toluene | 490 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper (I) iodide | 0.54 mmol, 0.10 g | [Cu]I
product | (1R*,5R*,6R*)-2-oxo-6-phenyl-3-oxa-bicyclo[3.1.0]hexane-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)[C@]12C(OC[C@@H]2[C@@H]1C1=CC=CC=C1)=O | C16H18O4
